US06992087B2
Preparation of 5-(2-chloro-4-methoxyphenyl)-3,6-diethyl-N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 5-bromo-3,6-diethyl-N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and 2-chloro-4-methoxyphenylboronic acid, and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.29, 7.11, 7.04, 6.99, 6.91, 6.84, 5.47, 4.64, 3.86, 3.78, 2.83, 2.68, 2.55, 2.15, 1.91, 1.74, 1.27, 1.21; 13C NMR (100 MHz, CDCl3) δ 160.08, 158.37, 151.72, 150.71, 140.19, 139.72, 138.22, 136.12, 135.06, 132.59, 131.63, 130.50, 130.39, 115.13, 114.20, 113.41, 55.99, 55.74, 49.29, 30.08, 29.16, 27.66, 26.50, 20.66, 13.35, 11.82; HRMS (FAB) calcd for C26H30ClN3O2+H 452.2104, found 452.2097.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 5-bromo-3,6-diethyl-N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=CC=C(C=C12)OC)CC | C19H24BrN3O
reactant | 2-chloro-4-methoxyphenylboronic acid | ClC1=C(C=CC(=C1)OC)B(O)O | C7H8BClO3
product | 5-(2-chloro-4-methoxyphenyl)-3,6-diethyl-N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | ClC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)NC1CCCC2=CC=C(C=C12)OC)CC | C26H30ClN3O2
